US04472305
Condensation of BocProOH (4.63 g.) and MeDTrpOMe (5.00 g.) by the mixed anhydride method using diphenylphosphinyl chloride gave BocPro-MeDTrpOMe in 69% yield. Demethylation of BocPro-MeDTrpOMe (6.33 g.) using aqueous sodium hydroxide gave BocPro-MeDTrpOH in 77% yield. Condensation of BocPro-MeDTrpOH (3.60 g.) and HPheOBz (3.70 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-MeDTrp-PheOBz in 83% yield. Debenzylation of BocPro-MeDTrp-PheOBz (4.60 g.) by hydrogenation with palladium catalyst gave BocPro-MeDTrp-PheOH in 100% yield.

reactant | BocPro-MeDTrpOH | 3.60 g | N1([C@H](C(=O)N([C@H](CC2=CNC3=CC=CC=C23)C(=O)O)C)CCC1)C(=O)OC(C)(C)C | C22H29N3O5
reactant | HPheOBz | 3.70 g | N[C@@H](CCC1=CC=CC=C1)C(=O)OC(=O)C1=CC=CC=C1 | C17H17NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | BocPro-MeDTrp-PheOBz | 83% yield | N1([C@H](C(=O)N([C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(=O)C2=CC=CC=C2)C)CCC1)C(=O)OC(C)(C)C | C38H42N4O7
